US07153865B2
8-Bromo-2-chloro-4-(3,4-dichlorophenyl)aminoquinoline
8-Bromo-2-hydroxy-4-(3,4-dichlorophenyl)aminoquinoline (3.52 g, 9.16 mmol) and 26 mL of POCl3 were heated to 120° C. for 4 h. The bulk of the POCl3 was distilled (˜18 mL), and the reaction cooled. The solution was poured slowly onto warm water to get a gummy solid. The water was decanted and the solids washed with several portions of water. A final wash with toluene and drying under vacuum afforded 1.43 g of material (3.55 mmol, 38.8%). 1H NMR (300 MHz, DMSO): 9.58(s, 1H), 8.39(d, 1H, J=8.48 Hz), 8.15(d, 1H, J=7.67 Hz), 7.70(d, 1H, J=8.88 Hz), 7.66(d, 1H, J=2.42 Hz), 7.51(dd, 1H, J=8.48, 7.67 Hz), 7.44(d, 1H, J=8.88, 2.42 Hz), 6.90(s, 1H).

reactant | 8-Bromo-2-hydroxy-4-(3,4-dichlorophenyl)aminoquinoline | 9.16 mmol, 3.52 g | BrC=1C=CC=C2C(=CC(=NC12)O)NC1=CC(=C(C=C1)Cl)Cl | C15H9BrCl2N2O
reactant | POCl3 | 26 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 8-Bromo-2-chloro-4-(3,4-dichlorophenyl)aminoquinoline | 3.55 mmol, 1.43 g, 38.8% | BrC=1C=CC=C2C(=CC(=NC12)Cl)NC1=CC(=C(C=C1)Cl)Cl | C15H8BrCl3N2
